US09169295B2
tert-Butyl 2-thioureidoacetate
To a magnetically stirred suspension of tert-butyl 2-aminoacetate (11.2 g, 85 mmol) in CH2Cl2 (200 mL) under nitrogen is added 1,1′-thiocarbonyldipyridin-2(1H)-one (21 g, 90 mmol) and the resulting mixture is stirred at room temp. for 18 h. The solvent is removed in vacuo, the residue treated with 2M ammonia in methanol (600 mL, 1200 mmol) and stirred at room temperature for 45 min. The solvent is removed in vacuo and dried under high vacuum to give the title compound as a reddish oil that is used “as is” without further purification in the next step. LC/MS (Condition A): ret. T=2.19 min, (M+H)+ 191—actually see (M−55) 134.95 (this is characteristic of BOC fragmentation pattern).

reactant | tert-butyl 2-aminoacetate | 85 mmol, 11.2 g | NCC(=O)OC(C)(C)C | C6H13NO2
reactant | 1,1′-thiocarbonyldipyridin-2(1H)-one | 90 mmol, 21 g | C(=S)(N1C(C=CC=C1)=O)N1C(C=CC=C1)=O | C11H8N2O2S
reactant | ammonia | 2M | N | H3N
reactant | methanol | 1200 mmol, 600 mL | CO | CH4O
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
product | tert-Butyl 2-thioureidoacetate | N(C(=S)N)CC(=O)OC(C)(C)C | C7H14N2O2S
